US05260455
Diphenylbis(5,6-epoxyhexyl)silane
27.6 g of diphenylsilane (0.15 mole) were dispersed in 100 g toluene with 0.02 g rhodiumtrichloride hydrate (as a solution in 0.5 cc ethanol) then the solution was brought to 100° C. when 32 g 1,2-epoxy-5-hexene (0.32 mole) were added dropwise. A two hour hold at 100°-110° followed, which consumed all SiH per IR analysis. Solvent was distilled off leaving 45 g residue as a mobile, 15 cstk viscosity fluid product, nD25 =1.5532. Infrared analysis was consistent with the proposed structure, with evidence of siloxane by products also present.

reactant | diphenylsilane | 0.15 mole, 27.6 g | C1(=CC=CC=C1)[SiH2]C1=CC=CC=C1 | C12H12Si
reactant | 1,2-epoxy-5-hexene | 0.32 mole, 32 g | O1CC1CCC=C | C6H10O
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.5 cc | C(C)O | C2H6O
catalyst | rhodiumtrichloride hydrate | 0.02 g | O.[Rh](Cl)(Cl)Cl
product | Diphenylbis(5,6-epoxyhexyl)silane | 45 g | C1(=CC=CC=C1)[Si](CCCCC1CO1)(CCCCC1CO1)C1=CC=CC=C1 | C24H32O2Si
